US08754226B2
To a solution of (S)-methyl 4-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoate (0.1 g, 0.19 mmol) in THF (2 mL) was added LiOH (3 M, 2 mL) and the reaction was stirred overnight at ambient temperature. The THF was removed with a stream of nitrogen. The aqueous layer was acidified with 1 N HCl to about pH 1 and the solid that formed was filtered and washed with water. The solid was dried under vacuum to yield (S)-4-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoic acid (0.040 g, 0.081 mmol, 42% yield).

reactant | (S)-methyl 4-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoate | 0.19 mmol, 0.1 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C(=O)OC)C=C1)F)=O | C23H22ClF4N3O4
reactant | LiOH | 3 M, 2 mL | [Li+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-4-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoic acid | 0.081 mmol, 0.040 g, 42% yield | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C(=O)O)C=C1)F)=O | C22H20ClF4N3O4
